US06060207
26 g of acrylic acid, 24 g of menthol and 15 g of p-toluenesulfonic acid in 500 mL of toluene were heated under reflux at an oil temperature of 150° C. for 19 h. Subsequently, the reaction mixture was quenched by the addition of salt saturated sodium bicarbonate solution. The mixture was then extracted with ether, the organic layers were combined and washed with salt saturated sodium bicarbonate solution and then with an aqueous solution of sodium hydride, salt saturated ammonium chloride solution, and then dried over salt saturated brine and sodium sulfate anhydrous. Finally, the resultant oily product was evaporated under reduced pressure to obtain menthyl acrylate.

reactant | acrylic acid | 26 g | C(C=C)(=O)O | C3H4O2
reactant | menthol | 24 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
reactant | p-toluenesulfonic acid | 15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | menthyl acrylate | C(C=C)(=O)OC1CC(CCC1C(C)C)C | C13H22O2
